US06495565B2
A suspension of ethyl 1-benzyl-2-methyl-4-oxo-3-pyrrolidinecarboxylate (3.4 g, 13 mmol) in water (95 ml) and sulfuric acid (5 ml) was heated to 90° C. overnight. The mixture was allowed to cool was neutralized with sodium carbonate, extracted with methylene chloride. The combined organic layer filtered through a plug of silica gel and concentrated to give 1-benzyl-5-methyl-3-pyrrolidinone (1.13 gm, 46%) as a yellow oil, MS (M+H)+=190.

reactant | ethyl 1-benzyl-2-methyl-4-oxo-3-pyrrolidinecarboxylate | 13 mmol, 3.4 g | C(C1=CC=CC=C1)N1C(C(C(C1)=O)C(=O)OCC)C | C15H19NO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 95 ml | O | H2O
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 1-benzyl-5-methyl-3-pyrrolidinone | 1.13 gm, 46% | C(C1=CC=CC=C1)N1CC(CC1C)=O | C12H15NO
